US04489003
1.2 g (12 mmol) of 1-methyl-cyclopentanol in 25 ml of dry dimethylformamide is treated with 0.5 g (10.3 mmol) of sodium hydride (55% oil dispersion) and to the resulting solution there are added portionwise at -20° 3.79 g (10.3 mmol) of (S)-1-[(8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl)carbonyl]imidazole. The mixture is stirred at room temperature for 1 hour, poured into about 250 ml of water, the precipitated material is filtered off under suction, washed with water and dried. There is obtained 1-methyl-cyclopentyl 8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 190°-191°.

reactant | 1-methyl-cyclopentanol | 12 mmol, 1.2 g | CC1(CCCC1)O | C6H12O
reactant | sodium hydride | 10.3 mmol, 0.5 g | [H-].[Na+]
reactant | (S)-1-[(8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl)carbonyl]imidazole | 10.3 mmol, 3.79 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | water | about 250 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-methyl-cyclopentyl 8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1C(C=3N2C=NC3C(=O)OC3(CCCC3)C)CCC1)=O | C21H22ClN3O3
